US04518602
6-Acetoxy-2,2-dimethylhexanoic acid (4.5 g) was dissolved in 47% aqueous hydrobromic acid (25 ml), and the solution was heated at 130° C. for 4 hours. After the completion of the reaction, water (100 ml) was added to the solution, and the product was extracted with ether. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was chromatographed on a column of silica gel, and development with isopropyl ether yielded 6-bromo-2,2-dimethylhexanoic acid (4 g, 91%).

reactant | 6-Acetoxy-2,2-dimethylhexanoic acid | 4.5 g | C(C)(=O)OCCCCC(C(=O)O)(C)C | C10H18O4
reactant | water | 100 ml | O | H2O
reactant | hydrobromic acid | 25 ml | Br | BrH
product | 6-bromo-2,2-dimethylhexanoic acid | 4 g, 91% | BrCCCCC(C(=O)O)(C)C | C8H15BrO2
